US08283364B2
Scale-up procedure. 4-Fluoro-6-methyl-1-[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one hydrochloride (E1c)
4-Fluoro-6-methyl-1-[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one free base (102.73 mmol, 34.25 g, 1 wt) was suspended in methanol (10 vol. 342 ml). HCl 1M in diethyl ether (154 ml, 1.5 eq.) was added dropwise in 20 min. The slurry was magnetically stirred at ambient temp. for 3 hours. The solvents were evaporated and the solid triturated in diethyl ether (14.5 vol., 500 ml) for 20 min. Diethyl ether was decanted and the white solid was dried under high acuum at 40° C. overnight. Residual MeOH (7% w/w by NMR) was found. The solid was dried under high vacuum overnight at 40° C. The solid was triturated in diethyl ether (14.5 vol, 500 ml), filtered and dried again in the oven at 40° C./high vacuum for 4 hours, then at 60° C. overnight then at 80° C. for two hours. 36.1 g, 95%.

reactant | 4-Fluoro-6-methyl-1-[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one | 102.73 mmol, 34.25 g | FC1=CC(=CC=2N(C(NC21)=O)C2CCN(CC2)C2CCOCC2)C | C18H24FN3O2
reactant | HCl | 1M | Cl | ClH
reactant | diethyl ether | 154 ml, 1.5 eq. | C(C)OCC | C4H10O
solvent | methanol | 342 ml | CO | CH4O
product | 4-Fluoro-6-methyl-1-[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one hydrochloride | Cl.FC1=CC(=CC=2N(C(NC21)=O)C2CCN(CC2)C2CCOCC2)C | InChI=1S/C18H24FN3O2.ClH/c1-12-10-15(19)17-16(11-12)22(18(23)20-17)14-2-6-21(7-3-14)13-4-8-24-9-5-13;/h10-11,13-14H,2-9H2,1H3,(H,20,23);1H
